US07960419B2
Using a similar procedure to that of Preparation IX-2, but using 1.5 equivalents of potassium t-butoxide and 1.5 equivalents of acetonitrile per 1 equivalent of 4-(methylthio) benzonitrile, there is obtained 3-amino-3-[4-(methylthio)phenyl]acrylonitrile.

reactant | potassium t-butoxide | 1.5 equivalents | CC(C)([O-])C.[K+]
reactant | acetonitrile | 1.5 equivalents | C(C)#N | C2H3N
reactant | 4-(methylthio) benzonitrile | 1 equivalent | CSC1=CC=C(C#N)C=C1 | C8H7NS
product | 3-amino-3-[4-(methylthio)phenyl]acrylonitrile | NC(=CC#N)C1=CC=C(C=C1)SC | C10H10N2S
